US07078369B2
Methyl 2-[(tert-butylamino)sulfonyl]-6-nitrobenzoate
At 0° C., 1.4 ml (13.3 mmol) of tert-butylamine are added dropwise to a solution of 1.00 g (3.58 mmol) of methyl 2-(chlorosulfonyl)-6-nitrobenzoate in 8 ml of dichloromethane, and the reaction mixture is then allowed to warm to room temperature. After 2 h, the reaction mixture is poured into ice-water, adjusted to pH 3 using 2 N aqueous hydrochloric acid and extracted with dichloromethane. The organic phase is then dried over sodium sulfate, filtered off and concentrated to dryness under reduced pressure. The residue that remains is digested with diethyl ether and filtered off with suction. This gives 1.06 g (91% of theory) of methyl 2-[(tert-butylamino)sulfonyl]-6-nitrobenzoate of m.p. 89-91° C.

reactant | tert-butylamine | 13.3 mmol, 1.4 ml | C(C)(C)(C)N | C4H11N
reactant | methyl 2-(chlorosulfonyl)-6-nitrobenzoate | 3.58 mmol, 1.00 g | ClS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6ClNO6S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | Methyl 2-[(tert-butylamino)sulfonyl]-6-nitrobenzoate | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C12H16N2O6S
